US08119627B2
To an ice cooled solution of piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)-phenyl]amide (AMR01038, 80 mg, 0.219 mmol) in dry DCM (6 mL) were added pyridine (0.035 mL, 0.438 mmol) and 2,5-dichlorobenzenesulphonyl chloride (59.2 mg, 0.241 mmol). The reaction mixture was stirred at room temperature for 24 h, and then at reflux for 3 h. After quenching with saturated NaHCO3, the resulting solution was extracted with DCM (3×20 mL), and the combined organic layers were washed with water, 1M HCl (3×20 mL) and brine, dried (MgSO4), filtered and evaporated. Flash column chromatography on silica gel using hexane/EtOAc 8:2 as eluent gave 1-(2,5-dichlorobenzenesulfonyl)piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)-phenyl]amide (56 mg, 44%) as a white solid, mp 194-196° C. Rf: 0.81 (DCM/MeOH 9:1). 1H NMR (300 MHz, CDCl3) δ 1.74-1.96 (4H, m, 2CH2), 2.34 (1H, m, CH), 3.80 (2H, td, J=13.1, 3.4 Hz, CH2), 6.65 (1H, dd, J=8.1, 1.4 Hz, ArH), 6.87 (1H, d, J=8.8 Hz, ArH), 6.94 (1H, td, J=7.7, 1.7 Hz, ArH), 7.05 (1H, td, J=8.0, 1.4 Hz, ArH), 7.15 (1H, dd, J=8.8, 2.5 Hz, ArH), 7.37 (2H, d, J=1.4 Hz, ArH), 7.41 (1H, d, J=2.5 Hz, ArH), 7.68 (1H, br s, NH), 7.97 (1H, t, J=1.4 Hz, ArH) and 8.29 (1H, dd, J=8.0, 1.0 Hz, ArH). LC/MS (APCI) tr=5.62 min, m/z 577.21 (59), 575.26 (100), 573.24 (M++H, 90) HPLC tr=3.363 min (97.70%)

reactant | piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)-phenyl]amide | ClC1=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=CC(=C1)Cl | C18H18Cl2N2O2
reactant | pyridine | 0.438 mmol, 0.035 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,5-dichlorobenzenesulphonyl chloride | 0.241 mmol, 59.2 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,5-dichlorobenzenesulfonyl)piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)-phenyl]amide | 56 mg, 44% | ClC1=C(OC2=C(C=CC=C2)NC(=O)C2CCN(CC2)S(=O)(=O)C2=C(C=CC(=C2)Cl)Cl)C=CC(=C1)Cl | C24H20Cl4N2O4S
